US07700641B2
Synthesis of 1′-[(1-pyridin-2-ylpiperidin-4-yl)methyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one
A mixture of 1′-(piperidin-4-ylmethyl)spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one hydrobromide(0.20 g, 0.44 mmol), 2-bromopyridine (0.16 mL, 0.65 mmol), tetrabutyl ammonium iodide (0.05 g) and DBU (0.16 mL, 1.09 mmol) in DMF (5.00 mL) was heated at 120° C. for 15 hrs. After cooling down to ambient temperature, water (30.0 mL) was added. The above mixture was extracted twice with ethyl acetate (50.0 mL), the combined organic phase was dried over Na2SO4 and filtered. The filtrate was concentrated in vacuo to dryness. The residue was subjected to flash chromatography eluting with 30% ethyl acetate in hexane to give a white solid (0.05 g, 27%): mp 95-97° C.; 1H NMR (300 MHz, CDCl3) δ 8.17 (d, 1H), 7.47 (td, 1H), 7.31 (t, 1H), 7.18 (d, 1H), 7.06 (t, 1H), 6.92 (d, 1H), 6.66 (d, 1H), 6.59 (dd, 1H), 6.52 (s, 1H), 6.12 (s, 1H), 5.91-5.84 (m, 2H), 4.91 (d, 1H), 4.66 (d, 1H), 4.42-4.27 (m, 2H), 3.82-3.53 (m, 2H), 2.85 (t, 2H), 2.22-2.05 (m, 1H), 1.85-1.70 (m, 2H), 1.53-1.35 (m, 2H); 13C NMR(75 MHz, CDCl3) δ 177.9, 158.8, 156.1, 149.0, 147.4, 142.8, 142.5, 138.0, 132.4, 129.1, 124.2, 123.5, 119.5, 112.9, 108.8, 107.7, 103.1, 101.7, 93.8, 80.7, 58.3, 46.0, 45.5, 45.4, 35.2, 29.8, 29.7; MS (ES+) m/z 456 (M+1).

reactant | 1′-(piperidin-4-ylmethyl)spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one hydrobromide | 0.44 mmol, 0.20 g | Br.N1CCC(CC1)CN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O
reactant | 2-bromopyridine | 0.65 mmol, 0.16 mL | BrC1=NC=CC=C1 | C5H4BrN
reactant | DBU | 1.09 mmol, 0.16 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | water | 30.0 mL | O | H2O
catalyst | tetrabutyl ammonium iodide | 0.05 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 5.00 mL | CN(C)C=O | C3H7NO
product | 1′-[(1-pyridin-2-ylpiperidin-4-yl)methyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | 0.05 g, 27% | N1=C(C=CC=C1)N1CCC(CC1)CN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C27H25N3O4
